US04560683
(a) 1-Ethoxycarbonyloxy-1-ethyl (6R,7R)-3-Carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylate
(6R,7R)-3-Carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylic acid (1.1 g) was dissolved in N,N-dimethylformamide (5 ml) and stirred with potassium carbonate (105 mg) under nitrogen with ice-water cooling. After 10 minutes, 1-ethoxycarbonyloxy-1-ethyl bromide was added. After one hour, the mixtured was allowed to attain 21° and was stirred thus for three hours. The mixture was partitioned between ethyl acetate and aqueous hydrochloric acid. The aqueous layer was extracted with more ethyl acetate and the combined organic layers were washed twice with brine, dried with magnesium sulphate and concentrated. The residue was chromatographed on Sorbsil U30 (50 g) in ethyl acetate (10 to 60%) in petroleum ether (bp 40° to 60°) to give the title compound (930 mg); [α]D21 +44.0° (c 1.30, CHCl3); λmax (ethanol) 230 nm (E1 cm1% 312), λ infl 236 nm (ED1% 295) and λnm (E1 cm1% 226).

reactant | (6R,7R)-3-Carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylic acid | 1.1 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC2CC2)=O)=O | C37H34N6O7S2
reactant | potassium carbonate | 105 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-ethoxycarbonyloxy-1-ethyl bromide | C(C)OC(=O)OC(C)Br | C5H9BrO3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-Ethoxycarbonyloxy-1-ethyl (6R,7R)-3-Carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylate | 930 mg | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)OC(=O)OCC)C([C@H]2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC2CC2)=O)=O | C42H42N6O10S2
